US07420083B2
Synthesis of 4-[3-({[(1E)-(4-tert-Butylphenyl)methylidene]amino}oxy)propoxy]-2-{[2-(trifluoromethyl)benzoyl]amino}benzoic acid
The title compound (0.117 g, 64%) was prepared as a white solid from 4-(3-bromo-propoxy)-2-(2-trifluoromethyl-benzoylamino)-benzoic acid methyl ester and 4-tert-butyl-benzaldehyde oxime using a procedure similar to step 1 of example 6. mp=121.1-122.0° C.; mass spectrum API-ES, (M−H) m/z 541. 1H NMR (400 MHz, DMSO-d6); δ 13.40 (bs, 1H), 11.90 (bs, 1H), 8.28 (d, 1H), 8.22 (s, 1H), 7.96 (d, 1H), 7.88 (d, 1H), 7.80 (m, 3H), 7.50 (d, 2H), 7.39 (d, 2H), 6.82 (dd, 1H), 4.28 (t, 2H), 4.18 (t, 2H), 2.15 (m, 2H), 1.25 (s, 9H). Elemental analysis: Calcd. for C29H29F3N2O5: C, 62.2; H, 5.39; N, 5.16, Found: C, 63.8; H, 5.26; N, 5.04.

reactant | 4-(3-bromo-propoxy)-2-(2-trifluoromethyl-benzoylamino)-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)OCCCBr)NC(C1=C(C=CC=C1)C(F)(F)F)=O)=O | C19H17BrF3NO4
reactant | 4-tert-butyl-benzaldehyde oxime | C(C)(C)(C)C1=CC=C(C=NO)C=C1 | C11H15NO
product | 4-[3-({[(1E)-(4-tert-Butylphenyl)methylidene]amino}oxy)propoxy]-2-{[2-(trifluoromethyl)benzoyl]amino}benzoic acid | 0.117 g, 64% | C(C)(C)(C)C1=CC=C(C=C1)\C=N\OCCCOC1=CC(=C(C(=O)O)C=C1)NC(C1=C(C=CC=C1)C(F)(F)F)=O | C29H29F3N2O5
